US09371289B2
Synthesis of 4-[(1S)-1-[[(3R)-2-(2-(4-fluorophenoxy)ethyl)-3,4-dihydro-1H-isoquinoline-3-carbonyl]amino]ethyl]benzoic acid hydrochloride
Dissolve methyl 4-[(1S)-1-[[(3R)-2-(2-(4-fluorophenoxy)ethyl)-3,4-dihydro-1H-isoquinoline-3-carbonyl]amino]ethyl]benzoate (550 mg, 1.15 mmol) in a mixture of methanol (10 mL) and tetrahydrofuran (10 mL). Add a 5 N aqueous solution of sodium hydroxide (0.462 mL, 2.31 mmol), then stir the mixture at room temperature overnight. Concentrate the mixture under reduced pressure to furnish a white solid. Add a 4 M solution of hydrogen chloride in 1,4-dioxane (10 mL, 40 mmol), and stir the mixture at room temperature for 10 min Remove the suspended solids by filtration, rinsing the solids with THF (5 mL). Concentrate the combine filtrate under reduced pressure to furnish a white solid. Triturate the material in hot diethyl ether (10 mL), and filter to furnish the title compound as a white solid (535 mg, 93% yield). Mass spectrum (m/z): 463 ([M+H]+), 485 ([M+Na]+).

reactant | methyl 4-[(1S)-1-[[(3R)-2-(2-(4-fluorophenoxy)ethyl)-3,4-dihydro-1H-isoquinoline-3-carbonyl]amino]ethyl]benzoate | 1.15 mmol, 550 mg | FC1=CC=C(OCCN2CC3=CC=CC=C3C[C@@H]2C(=O)N[C@@H](C)C2=CC=C(C(=O)OC)C=C2)C=C1 | C28H29FN2O4
reactant | sodium hydroxide | 2.31 mmol, 0.462 mL | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-[(1S)-1-[[(3R)-2-(2-(4-fluorophenoxy)ethyl)-3,4-dihydro-1H-isoquinoline-3-carbonyl]amino]ethyl]benzoic acid hydrochloride | 535 mg, 93% yield | Cl.FC1=CC=C(OCCN2CC3=CC=CC=C3C[C@@H]2C(=O)N[C@@H](C)C2=CC=C(C(=O)O)C=C2)C=C1 | InChI=1S/C27H27FN2O4.ClH/c1-18(19-6-8-20(9-7-19)27(32)33)29-26(31)25-16-21-4-2-3-5-22(21)17-30(25)14-15-34-24-12-10-23(28)11-13-24;/h2-13,18,25H,14-17H2,1H3,(H,29,31)(H,32,33);1H/t18-,25+;/m0./s1
